US04371720
5-Methyl-4-(2-propenyl)-2-phenylsulfenylcyclohexanone
To a 0° C. mixture of 16.9 g. (0.109 mole) of methyl benzenesulfinate and 8.68 g. (0.217 mole) of potassium hydride in 100 ml. of dimethoxyethane was slowly added a solution of 15.0 g. (0.0987 mole) of trans-3-methyl-4-(2-propenyl)cyclohexanone in 50 ml. of dimethoxyethane. The reaction was stirred 30 minutes longer at 0° C. and then cautiously added to 500 ml. of ice-saturated sodium chloride and 45 ml. 6 N hydrochloric acid. The quenched reaction mixture was extracted once with 300 ml. ether and once with 200 ml. dichloromethane. The organic extract was dried over magnesium sulfate and evaporated to give a quantitative yield of the title compound as a semisolid mixture of axial and equatorial sulfenates. Crystallization from ether yields 7.8 g. of pure axial sulfenate.

reactant | methyl benzenesulfinate | 0.109 mole | C1(=CC=CC=C1)S(=O)OC | C7H8O2S
reactant | potassium hydride | 0.217 mole | [H-].[K+]
reactant | trans-3-methyl-4-(2-propenyl)cyclohexanone | 0.0987 mole | C[C@@H]1CC(CC[C@H]1CC=C)=O | C10H16O
reactant | hydrochloric acid | 6 N | Cl | ClH
solvent | dimethoxyethane | C(OC)COC | C4H10O2
product | 5-Methyl-4-(2-propenyl)-2-phenylsulfenylcyclohexanone | quantitative yield | CC1C(CC(C(C1)=O)SC1=CC=CC=C1)CC=C | C16H20OS
